US09351974B2
Step b: Methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(3-methylbutyl)alaninate
A solution of 2,4-dichloro-5-nitropyrimidine (27.8 g, 144 mmol) in ether (350 mL) was cooled to −10° C. and was treated with methyl N-(3-methylbutyl)alaninate (20.8 g, 120 mmol). A solution of potassium bicarbonate (25.0 g in 180 mL water) was added drop wise maintaining the temperature below 0° C. Reaction mixture was then allowed to come to room temperature and stirred for 2 h. Ether layer was separated, the aq. layer was extracted with ether (3×100 mL). Combined ether solution was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate-hexane mixture (v:v=5:95) to give titled product (yield: 51%). 1HNMR (300 MHz, CDCl3): δ 0.90-1.01 (m, 6H), 1.40-1.61 (m, 6H), 3.10-3.21 (m, 1H), 3.39-3.45 (m, 1H), 3.78 (s, 3H), 4.41-4.50 (s, 1H), 8.71 (s, 1H).

reactant | 2,4-dichloro-5-nitropyrimidine | 144 mmol, 27.8 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | methyl N-(3-methylbutyl)alaninate | 120 mmol, 20.8 g | CC(CCN[C@@H](C)C(=O)OC)C | C9H19NO2
reactant | potassium bicarbonate | 180 mL, 25.0 g | C([O-])(O)=O.[K+]
solvent | ether | 350 mL | CCOCC | C4H10O
product | Methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(3-methylbutyl)alaninate | yield: 51% | ClC1=NC=C(C(=N1)N([C@@H](C)C(=O)OC)CCC(C)C)[N+](=O)[O-] | C13H19ClN4O4
